US05066680
A mixture of N-(4-diethylamino-2-butynyl)-2-(2,2,2-trifluoroacetylamino)-2,2-diphenylacetamide (0.11 g) in acetone (2 ml) and 6N hydrochloric acid (1.0 ml) was refluxed for 24 hours. After being cooled, the solvent was evaporated in vacuo. The resulting solution was adjusted to pH 12 with aqueous solution of sodium hydroxide and the separated oil was extracted with ethyl acetate. The extract was washed with brine, dried over sodium sulfate and evaporated in vacuo. The residue was purified by column chromatography on silica gel with a mixture of chloroform and methanol as an eluent to give N-(4-diethylamino-2-butynyl)-2-amino-2,2-diphenylacetamide (0.05 g).

reactant | N-(4-diethylamino-2-butynyl)-2-(2,2,2-trifluoroacetylamino)-2,2-diphenylacetamide | 0.11 g | C(C)N(CC#CCNC(C(C1=CC=CC=C1)(C1=CC=CC=C1)NC(C(F)(F)F)=O)=O)CC | C24H26F3N3O2
solvent | acetone | 2 ml | CC(=O)C | C3H6O
solvent | hydrochloric acid | 6N, 1.0 ml | Cl | ClH
product | N-(4-diethylamino-2-butynyl)-2-amino-2,2-diphenylacetamide | 0.05 g | C(C)N(CC#CCNC(C(C1=CC=CC=C1)(C1=CC=CC=C1)N)=O)CC | C22H27N3O
